US09278968B2
To a solution of 75 mg of 8-[(2,6-difluorobenzyl)oxy]-N-{2,2-dimethyl-5-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-1,3-dioxan-5-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 0.4 ml of methanol and 0.4 ml of water was added 1.6 ml of a 4 M hydrogen chloride/1,4-dioxane solution, followed by stirring at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure to obtain 74 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[1,3-dihydroxy-2-(1H-pyrazol-4-yl)propan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride.

reactant | 8-[(2,6-difluorobenzyl)oxy]-N-{2,2-dimethyl-5-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-1,3-dioxan-5-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 75 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3(COC(OC3)(C)C)C=3C=NN(C3)C3OCCCC3)C(=CC=C1)F | C30H33F2N5O5
reactant | hydrogen chloride 1,4-dioxane | 4 M | Cl.O1CCOCC1
solvent | methanol | 0.4 ml | CO | CH4O
solvent | water | 0.4 ml | O | H2O
product | 8-[(2,6-difluorobenzyl)oxy]-N-[1,3-dihydroxy-2-(1H-pyrazol-4-yl)propan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride | 74 mg | Cl.FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(CO)C=3C=NNC3)C(=CC=C1)F | InChI=1S/C22H21F2N5O4.ClH/c1-13-19(21(32)28-22(11-30,12-31)14-8-25-26-9-14)29-7-3-6-18(20(29)27-13)33-10-15-16(23)4-2-5-17(15)24;/h2-9,30-31H,10-12H2,1H3,(H,25,26)(H,28,32);1H
